US09340513B2
4-(((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-(((S)-1-(3-Chlorophenyl)ethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid
To a solution of 1-tert-butyl 4-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-(((S)-1-(3-chlorophenyl)ethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate (12 g, 14.66 mmol) in dichloromethane (130 mL) was added TFA (80 mL, 14.66 mmol). The reaction mixture was stirred at rt for 2 hr and diluted with DCM, washed with water twice. And the organic layer was concentrated, diluted with MeCN/H2O (1:5, 36 mL) and freeze-dried under high vacuo to give the title compound (9.9 g, 12.89 mmol, 88%). This material was combined with several batches made under similar conditions and freeze dried together for characterization (31 g, 41 mmol) as a light yellow solid. 1H NMR (400 MHz, CHLOROFORM-d) δ=7.38-7.13 (m, 4H), 6.97 (d, J=15.6 Hz, 1H), 5.82-5.59 (m, 2H), 5.26-5.06 (m, 1H), 4.50 (dd, J=5.3, 11.0 Hz, 1H), 3.29-3.09 (m, 1H), 2.81-2.48 (m, 3H), 2.37-2.00 (m, 3H), 2.00-0.68 (m, 47H).

reactant | 1-tert-butyl 4-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-(((S)-1-(3-chlorophenyl)ethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate | 14.66 mmol, 12 g | CC(C(=O)OC(C)(C)C)(CC(=O)O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5(C([C@H]4CC[C@@H]3[C@]2(CC1)C)=C(C(C5)=O)C(C)C)\C=C\C(=O)N[C@@H](C)C5=CC(=CC=C5)Cl)C)C)(C)C)C | C50H72ClNO6
reactant | TFA | 14.66 mmol, 80 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 130 mL | ClCCl | CH2Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-(((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-(((S)-1-(3-Chlorophenyl)ethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid | 12.89 mmol, 9.9 g, 88% | ClC=1C=C(C=CC1)[C@H](C)NC(/C=C/[C@]12C([C@H]3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)OC(CC(C(=O)O)(C)C)=O)C)=C(C(C2)=O)C(C)C)=O | C46H64ClNO6
